US07074800B1
Diethyl azodicarboxylate (65 μl, 0.4 mmol) was added in portions to a suspension of 4-(2,3-dimethylindol-5-ylamino)-7-hydroxy-6-methoxyquinazoline (68 mg, 0.2 mmol), triphenylphosphine (107 mg, 0.4 mmol), (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol (40 mg, 0.28 mmol) in DMF (0.4 ml) and dichloromethane (1.5 ml) cooled at 0° C. The reaction mixture was left to warm up to ambient temperature and was stirred overnight. The mixture was poured onto a column of silica and was eluted with methylene chloride followed by methylene chloride/methanol (98/2), followed by methylene chloride/3N ammonia in methanol (95/5 and 90/10) to give 4-(2,3-dimethylindol-5-ylamino)-6-methoxy-7-((E)-4-(pyrrolidin-1-yl)but-2-en-1-yloxy)quinazoline (51 mg, 55%).

reactant | Diethyl azodicarboxylate | 0.4 mmol, 65 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2,3-dimethylindol-5-ylamino)-7-hydroxy-6-methoxyquinazoline | 0.2 mmol, 68 mg | CC=1NC2=CC=C(C=C2C1C)NC1=NC=NC2=CC(=C(C=C12)OC)O | C19H18N4O2
reactant | triphenylphosphine | 0.4 mmol, 107 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol | 0.28 mmol, 40 mg | N1(CCCC1)C/C=C/CO | C8H15NO
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 4-(2,3-dimethylindol-5-ylamino)-6-methoxy-7-((E)-4-(pyrrolidin-1-yl)but-2-en-1-yloxy)quinazoline | 51 mg, 55% | CC=1NC2=CC=C(C=C2C1C)NC1=NC=NC2=CC(=C(C=C12)OC)OC\C=C\CN1CCCC1 | C27H31N5O2
